US05324710
15.5 g of methyl 2-methoxy-6-methylpyrimidine-4-carboxylate are added to a stirred solution of 3.6 g of sodium hydroxide in 100 ml of methanol and 10 ml of water. Stirring is continued at room temperature until the starting material disappears (TLC checking; 3 h). The methanol is distilled off under reduced pressure, the residue is taken up in water and the mixture is extracted once with ethyl acetate. The aqueous phase is acidified to pH 2 with conc. hydrochloric acid and then stirred for 1 h, and the product is filtered off with suction. 6.6 g of 2-methoxy-6-methylpyrimidine-4-carboxylic acid of melting point 161°-163° C. are obtained in this way. Concentration and extraction of the mother liquor using dichloromethane additionally gives 3.1 g of product of melting point 159°-161° C.

reactant | methyl 2-methoxy-6-methylpyrimidine-4-carboxylate | 15.5 g | COC1=NC(=CC(=N1)C(=O)OC)C | C8H10N2O3
reactant | sodium hydroxide | 3.6 g | [OH-].[Na+]
solvent | methanol | 100 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | 2-methoxy-6-methylpyrimidine-4-carboxylic acid | 6.6 g | COC1=NC(=CC(=N1)C(=O)O)C | C7H8N2O3
